US08871903B2
1,4-bis((trimethylsilyl)ethynyl)benzene
40 mL THF was transferred to a flame-dried Schlenk flask. 1,4-dibromobenzene (2.5 mmol, 0.060 g), Pd(PPh3)4 (0.1 mmol 0.12 g), and CuI (0.2 mmol, 0.004 g) were added. Trimethylsilylacetylene (6 mmol, 0.87 mL) and 10 mL DIPA was added via syringe. The mixture was heated to 45° C. for 24 hrs. under nitrogen. The resulting suspension was filtered and filtrate was concentrated under reduced pressure. The residual solid was dissolved in dichloromethane and washed with an aqueous ammonium chloride solution. The organic layer was concentrated and crude product was subjected to column chromatography (silica, hexanes) to afford a white solid (2.3 mmol, 0.61 g, 90% yield). 1H NMR (400 MHz, CDCl3) δ: 7.37 (s, 4H), 0.22 (s, 18H).

reactant | 1,4-dibromobenzene | 2.5 mmol, 0.060 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | Trimethylsilylacetylene | 6 mmol, 0.87 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)4 | 0.1 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.2 mmol, 0.004 g | [Cu]I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1,4-bis((trimethylsilyl)ethynyl)benzene | 2.3 mmol, 0.61 g, 90% yield | C[Si](C)(C)C#CC1=CC=C(C=C1)C#C[Si](C)(C)C | C16H22Si2
